US04431834
A solution of 2-(p-methoxyphenylthio) indane (5 g) in dry dichloromethane (40 ml) was cooled to -70°. Boron tribromide (6 g) was added slowly with stirring at -70°. When addition was complete, the reaction mixture was kept at -70° for a further 10 minutes and then allowed to warm to room temperature. The mixture was left overnight and water (70 ml) then added slowly with stirring. The mixture was then poured into water (65 ml) and a further quantity (95 ml) of dichloromethane added, and the mixture agitated. The dichloromethane solution was separated and extracted with 2 molar sodium hydroxide. The cloudy extract was allowed to stand until it cleared and was then decanted from a residue. The solution was acidified with dilute hydrochloric acid and extracted with ether. The ether solution was washed with water, dried, and evaporated to give 2-(p-hydroxyphenylthio)indane.

reactant | 2-(p-methoxyphenylthio) indane | 5 g | COC1=CC=C(C=C1)SC1CC2=CC=CC=C2C1 | C16H16OS
reactant | Boron tribromide | 6 g | B(Br)(Br)Br | BBr3
reactant | water | 70 ml | O | H2O
reactant | water | 65 ml | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 95 ml | ClCCl | CH2Cl2
product | 2-(p-hydroxyphenylthio)indane | OC1=CC=C(C=C1)SC1CC2=CC=CC=C2C1 | C15H14OS
